US04570005
Preparation of 3-(4-fluorophenoxy)benzyl 2-(4-fluorophenyl)-2-methylbutyl ether is described
To 20 ml of toluene were added 2 ml of concentrated sulfuric acid, 2.7 g of 3-(4-fluorophenoxy)benzyl alcohol and 2.3 g of 2-(4-fluorophenyl)-2-methylbutyl alcohol, and the mixture was refluxed for 6 hours (water formed by reaction was removed). The mixture was cooled to room temperature, and water was added to the mixture and the toluene layer was separated, washed with water, dried, and evaporated under reduced pressure, and the obtained crude ether was purified by column chromatography on 100 g of silica gel (1:1 mixed solvent of toluene and n-hexane was used as eluent) to give 2.2 g of the desired ether (the yield was 46% of the theoretical yield).

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-(4-fluorophenoxy)benzyl alcohol | 2.7 g | FC1=CC=C(OC=2C=C(CO)C=CC2)C=C1 | C13H11FO2
reactant | 2-(4-fluorophenyl)-2-methylbutyl alcohol | 2.3 g | FC1=CC=C(C=C1)C(CO)(CC)C | C11H15FO
solvent | water | O | H2O
product | 3-(4-fluorophenoxy)benzyl 2-(4-fluorophenyl)-2-methylbutyl ether | yield was 46% | FC1=CC=C(C=C1)C(COCC1=CC(=CC=C1)OC1=CC=C(C=C1)F)(CC)C | C24H24F2O2
